US07435815B2
6-(Ethyl-methyl-amino)-pyridine-2-carboxylic acid ethylamide
prepared by reaction of ethyl-methyl-amine with 6-bromo-pyridine-2-carboxylic acid ethylamide

reactant | ethyl-methyl-amine | C(C)NC | C3H9N
reactant | 6-bromo-pyridine-2-carboxylic acid ethylamide | C(C)NC(=O)C1=NC(=CC=C1)Br | C8H9BrN2O
product | 6-(Ethyl-methyl-amino)-pyridine-2-carboxylic acid ethylamide | C(C)NC(=O)C1=NC(=CC=C1)N(C)CC | C11H17N3O
